* Full Wave Rectifier
* ******************
* TOR, COD, JD
* ******************
* Netlist for a full wave rectifier
* with smoothing capacitor
* ******************
D1 1 3 D
D4 0 1 D
D3 2 3 D
D2 0 2 D
V1 1 2 type=sin VO=0 VA=20 FREQ=50 TD=0 THETA=0
R1 3 0 300
.model D d
.op
.tran tstop=50m tstep=10u
.end

* ref: google images
